US08669234B2
{1-[2-(5-Ethynyl-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (49 mg, 0.154 mmol), (1-{2-[5-(4-bromo-phenylethynyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (43 mg, 0.0908 mmol), Pd(PPh3)4 (10 mg, 0.00908 mmol), CuI (2 mg, 0.00908 mmol) and triethylamine (0.127 mL, 0.908 mmol) were suspended in DMF (2 mL) and the mixture was degassed for 10 min with nitrogen. The reaction mixture was stirred at 80° C. for 4 hours then cooled to RT. Formic acid (0.1 mL) and water (1 mL) were added and the mixture was purified by reverse phase preparative HPLC, giving (1-{2-[5-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H -imidazol-4-ylethynyl}-phenylethynyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (11 mg, 17%). 1H NMR (MeOH-d4, 400 MHz) 7.46 (d, J=3.9 Hz, 4H), 7.25 (s, 2H), 6.96 (d, J=8.4 Hz, 2H), 5.10 (m, 2H), 4.20 (m, 2H), 3.97 (m, 2H), 3.83 (m, 2H), 3.64 (s, 6H), 2.32-2.00 (m, 10H), 0.98-0.88 (m, 12H); MS (ESI) m/z 711 [M+H]+.

reactant | {1-[2-(5-Ethynyl-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.154 mmol, 49 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C#C)=O | C16H22N4O3
reactant | (1-{2-[5-(4-bromo-phenylethynyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.0908 mmol, 43 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C#CC1=CC=C(C=C1)Br)=O | C22H25BrN4O3
reactant | triethylamine | 0.908 mmol, 0.127 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.00908 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.00908 mmol, 2 mg | [Cu]I
product | (1-{2-[5-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H -imidazol-4-ylethynyl}-phenylethynyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 11 mg, 17% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C#CC1=CC=C(C=C1)C#CC=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C38H46N8O6
